US03962444
68 g of anthranilamide which is obtained by reacting isatoic acid anhydride with ammonium hydroxide is dissolved in 350 ml of acetonitrile. At a temperature of 70°C 107 g of trifluoroacetic acid anhydride is added to the solution thus obtained. The reaction mixture is stirred for 2 hours at 70°C and subsequently poured into 1.5-2 l of water. The resulting precipitate is drawn off, dissolved in 350 ml of 2N-caustic soda solution and hot-filtered after adding activated carbon chloride. The filtrate is acidified with approximately 100 ml of concentrated hydrochloric acid. The resultant precipitate is drawn off and washed with water. The 2-trifluoromethyl-quinazoline-4(3H)-on thus obtained has a melting point of 220°C with decomposition.

reactant | isatoic acid anhydride | C1=2C(=O)OC(NC1=CC=CC2)=O | C8H5NO3
reactant | ammonium hydroxide | [OH-].[NH4+]
reactant | trifluoroacetic acid anhydride | 107 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | water | 1.5-2 l | O | H2O
solvent | acetonitrile | 350 ml | C(C)#N | C2H3N
solvent | caustic soda | [OH-].[Na+]
product | 2-trifluoromethyl-quinazoline-4(3H)-on | FC(C1=NC2=CC=CC=C2C(N1)=O)(F)F | C9H5F3N2O
